US09403831B2
(S)-(4-benzylmorpholin-2-yl)methanol 36 g (173.68 mmnol) was dissolved in CH2Cl2 (400 ml), and TsCl (49.6 g, 260.52 mmol), DMAP (2.12 g, 17.36 mmol), and Et3N (36.31 ml, 260.52 mmol) were added, followed by stirring at room temperature for 1 hour. After the completion of the reaction, the reaction mixture was extracted with H2O and EA, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and then the residue was purified by column chromatography (EA:Hex=1:4), to give (S)-(4-benzylmorpholin-2-yl)methyl 4-methylbenzene sulfonate as a white solid (62.15 g, 99%).

reactant | (S)-(4-benzylmorpholin-2-yl)methanol | 36 g | C(C1=CC=CC=C1)N1C[C@H](OCC1)CO | C12H17NO2
reactant | TsCl | 260.52 mmol, 49.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Et3N | 260.52 mmol, 36.31 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 17.36 mmol, 2.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-(4-benzylmorpholin-2-yl)methyl 4-methylbenzene sulfonate | 62.15 g, 99% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1CN(CCO1)CC1=CC=CC=C1 | C19H23NO4S
